US05756518
To a solution of 813 mg (2.75 mmol) of trans-3-[2-(7-chloroquinolin-2-yl)ethenyl]benzyl alcohol in 40 ml of CHCl3, 1.0 ml of SOCl2 was added, followed by stirring at room temperature for 24 hours. A small amount of MeOH was added to the reaction mixture and the solvent was distilled off under reduced pressure, whereby trans-3-[2-(7-chloroquinolin-2-yl)ethenyl]-benzyl chloride was obtained as pale yellow powder.

reactant | trans-3-[2-(7-chloroquinolin-2-yl)ethenyl]benzyl alcohol | 2.75 mmol, 813 mg | ClC1=CC=C2C=CC(=NC2=C1)/C=C/C=1C=C(CO)C=CC1 | C18H14ClNO
reactant | MeOH | CO | CH4O
reactant | CHCl3 | 40 ml | C(Cl)(Cl)Cl | CHCl3
solvent | SOCl2 | 1.0 ml | O=S(Cl)Cl | Cl2OS
product | trans-3-[2-(7-chloroquinolin-2-yl)ethenyl]-benzyl chloride | ClC1=CC=C2C=CC(=NC2=C1)/C=C/C=1C=C(CCl)C=CC1 | C18H13Cl2N
